US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(2-fluorophenyl)-10b-methyl-1, 2,3,4,4a, 5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (200 mg, 0.65 mmol), tetrakis (triphenylphosphine) palladium (0) (23 mg, 0.02 mmol), 2-fluorophenylboronic acid (109 mg, 0.78 mmol), 0.65 mL of 2M sodium carbonate solution and 2 mL of THF, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 16 h. The mixture was cooled, diluted with chloroform (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent) to give 172 mg (82%) of the title compound as a foam. mp 142-150°. FDMS: m/e=323. α[D]589 =+77.89 (c=0.69, chloroform).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.65 mmol, 200 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)Br)C)=O | C15H18BrNO
reactant | 2-fluorophenylboronic acid | 0.78 mmol, 109 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.02 mmol, 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (+)-(4aR)-(10bR)-4-methyl-8-(2-fluorophenyl)-10b-methyl-1, 2,3,4,4a, 5,6,10b-octahydrobenzo[f]quinolin-3-one | 172 mg, 82% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=C(C=CC=C3)F)C)=O | C21H22FNO
